US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-methyl-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0638 g, 0.217 mmol) and bromomethane (2.0 M in t-Butylmethyl ether, 0.250 mL, 0.500 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0739 g, 88.0%). EI-MS m/z 308(M+) Rt (1.58 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.217 mmol, 0.0638 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | bromomethane | 0.500 mmol, 2.0 M, 0.250 mL | BrC | CH3Br
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-methyl-1-azoniabicyclo[2.2.2]octane bromide | 0.0739 g, 88.0% | [Br-].OC(C12CC[N+](CC1)(CC2)C)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C21H26NO.BrH/c1-22-15-12-20(13-16-22,14-17-22)21(23,18-8-4-2-5-9-18)19-10-6-3-7-11-19;/h2-11,23H,12-17H2,1H3;1H/q+1;/p-1
